US06900215B2
A mixture of 2-bromobenzonitrile (34.6 g, 190 mmol), 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (76.1 g, 285 mmol) and potassium fluoride (36.4 g, 627 mmol) in tetrahydrofuran (600 ml) was degassed with nitrogen for 30 min then treated with tris(dibenzylideneacetone)dipalladium(0) (1.74 g, 1.9 mmol) followed by tri-tert-butylphosphine (38 ml of a 0.1M solution in 1,4-dioxane, 3.8 mmol) and then the reaction was stirred at ambient temperature for 30 min before heating at 50° C. for 1 h to complete the coupling. The slurry-like reaction mixture was then diluted with water (3 l) and stirred at ambient temperature for 90 min. The resulting solid was collected by filtration, washed with water then with isohexane and finally dried under vacuum over phosphorus pentoxide to afford 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile as a beige solid (46 g, 100%): δH (360 MHz, CDCl3) 7.37-7.42 (1H, m), 7.53 (1H, d, J 8), 7.59 (1H, td, J 8 and 1), 7.75 (1H, td, J 8 and 1), 7.83 (1H, dd, J 8 and 1), 8.35-8.39 (2H, m).

reactant | 2-bromobenzonitrile | 190 mmol, 34.6 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 285 mmol, 76.1 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
reactant | potassium fluoride | 627 mmol, 36.4 g | [F-].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 3 l | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.9 mmol, 1.74 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile | 46 g, 100% | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1C(=CC=CC1)C#N | C13H7FN2O2
